US06906072B1
Reference Example 39 3-(1,3-dioxolan-2-yl)Thiophene
20.3 g (181 mmol) of 3-thiophenealdehyde, 50 ml of ethylene glycol and 2.00 g (7.96 mmol) of PPTS were dissolved in 230 ml of toluene, and dehydration was carried out using Dean-stark. After completion of the reaction, the mixture was extracted with ethyl acetate. The extract was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a crude product. The crude product was subjected to silica gel (ethyl acetate:hexane=1:10), to give 12.1 g (77.3 mmol, 86.7%) of the title compound as a yellow oil.

reactant | 3-thiophenealdehyde | 181 mmol, 20.3 g | S1C=C(C=C1)C=O | C5H4OS
reactant | ethylene glycol | 50 ml | C(CO)O | C2H6O2
reactant | PPTS | 7.96 mmol, 2.00 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1,3-dioxolan-2-yl)Thiophene | 77.3 mmol, 12.1 g, 86.7% | O1C(OCC1)C1=CSC=C1 | C7H8O2S
